US06924278B2
A solution of benzyloxycarbonyl chloride (0.59 g) in dichloromethane (3.0 ml) was added dropwise to a solution of 2-(2,3-dimethoxybenzyl)piperazine (0.91 g) and triethylamine (0.64 ml) in dichloromethane (18 ml) below 5° C. over 5 minutes under ice-cooling, and the reaction mixture was stirred at the same temperature for 15 minutes. After 2 hours of stirring at room temperature, the mixture was poured into a mixed solvent of water (40 ml) and dichloromethane (25 ml) and the whole was adjusted to pH 9 with aqueous sodium hydrogen carbonate solution. The organic layer was separated, washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (20 g) using a mixed solvent of dichloromethane and methanol (40:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give colorless oil of 1-(benzyloxycarbonyl)-3-(2,3-dimethoxybenzyl)piperazine (0.68 g).

reactant | benzyloxycarbonyl chloride | 0.59 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | 2-(2,3-dimethoxybenzyl)piperazine | 0.91 g | COC1=C(CC2NCCNC2)C=CC=C1OC | C13H20N2O2
reactant | triethylamine | 0.64 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 3.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | water | 40 ml | O | H2O
product | 1-(benzyloxycarbonyl)-3-(2,3-dimethoxybenzyl)piperazine | 0.68 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)CC1=C(C(=CC=C1)OC)OC | C21H26N2O4
